US08835626B2
2nd step: methyl 9-benzenesulfonyl-9H-[1,9′]bicarbazolyl-1′-carboxylate
8.0 g (42.2 mmol) of copper(I) iodide, 11.7 ml (97.5 mmol) of trans-cyclo-hexanediamine are added to a well-stirred suspension of 26.3 g (117 mmol) of methyl 9H-carbazole-1-carboxylate, 45.2 g (117 mmol) of 9-benzenesulfonyl-1-bromo-9H-carbazole and 416.4 g (1961 mmol) of potassium phosphate in 1170 ml of dioxane, and the mixture is subsequently heated under reflux for 16 h. After cooling, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol. Yield: 43 g (81 mmol), 70% of theory.

reactant | methyl 9H-carbazole-1-carboxylate | 117 mmol, 26.3 g | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)OC | C14H11NO2
reactant | 9-benzenesulfonyl-1-bromo-9H-carbazole | 117 mmol, 45.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC=C(C12)Br | C18H12BrNO2S
reactant | potassium phosphate | 1961 mmol, 416.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1170 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 42.2 mmol, 8.0 g | [Cu]I
product | methyl 9-benzenesulfonyl-9H-[1,9′]bicarbazolyl-1′-carboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC=C(C12)N1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)OC | C32H22N2O4S
